US07884109B2
(R)-4-(2,4-dimethoxybenzylamino)-3-(4-(6,8-difluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)benzonitrile.
A partial suspension of 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile (415 mg) in 40 mL of acetonitrile was treated with a solution of (R)-6,8-difluorochroman-4-amine HCl salt (320 mg) in DMSO (10 mL) followed by potassium carbonate (1.0 g). The mixture was stirred for 24 hours, and then diluted with EtOAc (200 mL). The mixture was washed once with saturated aqueous ammonium chloride (200 mL) and 3 times with saturated aqueous NaCl (200 mL each). The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo. Column chromatography (20→40% EtOAc/hexanes) provided 358 mg of the title compound.

reactant | 4-(2,4-dimethoxybenzylamino)-3-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)benzonitrile | 415 mg | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)SC#N)[N+](=O)[O-])C=CC(=C1)OC | C21H17N7O4S
reactant | (R)-6,8-difluorochroman-4-amine HCl salt | 320 mg | Cl.FC=1C=C2[C@@H](CCOC2=C(C1)F)N
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (R)-4-(2,4-dimethoxybenzylamino)-3-(4-(6,8-difluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)benzonitrile | 358 mg | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C(C(=N2)N[C@@H]2CCOC3=C(C=C(C=C23)F)F)[N+](=O)[O-])C=CC(=C1)OC | C29H25F2N7O5
